US07560558B2
Compound 344: 3-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-5,6-dimethyl-[2,3′]bipyridine
5,6-Dimethyl-3-hydroxy-[2,3′]bipyridine (400 mg), 7-benzyloxy-4-chloro-6-methoxyquinoline (1.80 g), and 4-dimethylaminopyridine (732 mg) were suspended in o-dichlorobenzene (8 ml), and the suspension was stirred at 140° C. for 6 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give the title compound (811 mg, yield 88%).

reactant | 5,6-Dimethyl-3-hydroxy-[2,3′]bipyridine | 400 mg | CC=1C=C(C(=NC1C)C=1C=NC=CC1)O | C12H12N2O
reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline | 1.80 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 732 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 8 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-5,6-dimethyl-[2,3′]bipyridine | 811 mg, yield 88% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC(=C(C1)C)C)C=1C=NC=CC1)OC | C29H25N3O3
